US06022899
9.7 g of methyl 3-iodo-4-methoxybenzoate, 9.4 g of potassium trifluoroacetate and 12.9 g of copper(I) iodide were heated at 160° C. for 5 h in 250 ml of DMF. The mixture was poured onto 500 ml of NaHCO3 solution, the precipitate which was deposited was filtered off and both the precipitate and the aqueous phase were extracted with ethyl acetate. The combined organic phases were concentrated, and the residue was purified by flash chromatography using hexane/ethyl acetate 3:1. 6 g of methyl 3-trifluoromethyl-4-methoxybenzoate were obtained;

reactant | methyl 3-iodo-4-methoxybenzoate | 9.7 g | IC=1C=C(C(=O)OC)C=CC1OC | C9H9IO3
reactant | potassium trifluoroacetate | 9.4 g | FC(C(=O)[O-])(F)F.[K+]
reactant | NaHCO3 | 500 ml | C(=O)(O)[O-].[Na+]
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
catalyst | copper(I) iodide | 12.9 g | [Cu]I
product | methyl 3-trifluoromethyl-4-methoxybenzoate | 6 g | FC(C=1C=C(C(=O)OC)C=CC1OC)(F)F | C10H9F3O3
